US06013662
235 g (1.66 mol) of methyl iodide and 212 g (1.39 mol) of 1,8-diazabicyclo[5.4.0]undec-7-ene, dropwise, were successively added to a solution of 288 g (1.17 mol) of (RS)-6-(2-methoxyphenyl)-3-oxocyclohexene-1-carboxylic acid in 2.5 dm3 of acetone and then the mixture was brought to reflux for one hour. The acetone was subsequently concentrated and then the residue was stirred with 1 dm3 of water. After cooling to 10° C., the precipitate formed was filtered off, washed with petroleum ether and then dried at 50° C. 289 g (95%) of methyl (RS)-6-(2-methoxyphenyl)-3-oxocyclohexene-1-carboxylate were thus obtained in the form of a mustard-coloured powder, the characteristics of which were as follows:

reactant | methyl iodide | 1.66 mol, 235 g | CI | CH3I
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.39 mol, 212 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (RS)-6-(2-methoxyphenyl)-3-oxocyclohexene-1-carboxylic acid | 1.17 mol, 288 g | COC1=C(C=CC=C1)C1CCC(C=C1C(=O)O)=O | C14H14O4
solvent | acetone | 2.5 dm3 | CC(=O)C | C3H6O
product | methyl (RS)-6-(2-methoxyphenyl)-3-oxocyclohexene-1-carboxylate | 289 g, 95% | COC1=C(C=CC=C1)C1CCC(C=C1C(=O)OC)=O | C15H16O4
